US05773663
2,6-Dichloro-5'-nitro-4'-methoxy-2'methyl-benzophenone
2,6-Dichloro-4'-methoxy-2'-methyl-benzophenone (0.75 g; 2.5 mmol) is added to nitric acid (10 ml; 65%). The mixture is stirred at 80° C. for 1 hour. After addition of water the reaction product crystallises and is chromatographically purified (flash column filled with 30 g of silicagel, elution with toluene). White crystalls (0.35 g; 41% y); mp. 156°-160° C.

reactant | 2,6-Dichloro-4'-methoxy-2'-methyl-benzophenone | 2.5 mmol, 0.75 g | ClC1=C(C(=O)C2=C(C=C(C=C2)OC)C)C(=CC=C1)Cl | C15H12Cl2O2
reactant | nitric acid | 10 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 2,6-Dichloro-5'-nitro-4'-methoxy-2'methyl-benzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2)[N+](=O)[O-])OC)C)C(=CC=C1)Cl | C15H11Cl2NO4
